US20010008893A1
1-(2-Methyl-4-hydroxynaphthoxy)-3-[4-(2-methylphenyl)-1-piperazinyl] propan-2-ol hydrochloride
Using 3.7 g of 4-benzyloxy-2-methylnaphthol, 1.4 g of anhydrous potassium carbonate, 5.0 g of chloromethyloxirane, 2.2 g of 1-(2-tolyl)piperazine hydrochloride and 1.2 g of triethylamine, reaction was carried out as in Examples 1-A and 2. The thus obtained crystals were recrystallized from ethanol-isopropyl ether to give 2.3 g, m.p. 261-263°C. (decomp.).

reactant | 4-benzyloxy-2-methylnaphthol | 3.7 g | C(C1=CC=CC=C1)OC1=CC(=C(C2=CC=CC=C12)O)C | C18H16O2
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyloxirane | 5.0 g | ClCC1OC1 | C3H5ClO
reactant | 1-(2-tolyl)piperazine hydrochloride | 2.2 g | Cl.C1(=C(C=CC=C1)N1CCNCC1)C
solvent | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
product | 1-(2-Methyl-4-hydroxynaphthoxy)-3-[4-(2-methylphenyl)-1-piperazinyl] propan-2-ol hydrochloride | Cl.CC1=C(C2=CC=CC=C2C(=C1)O)OCC(CN1CCN(CC1)C1=C(C=CC=C1)C)O | InChI=1S/C25H30N2O3.ClH/c1-18-7-3-6-10-23(18)27-13-11-26(12-14-27)16-20(28)17-30-25-19(2)15-24(29)21-8-4-5-9-22(21)25;/h3-10,15,20,28-29H,11-14,16-17H2,1-2H3;1H
